US07807709B2
E. (3S*,4R*)-3-Hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound is prepared in a similar manner as described for Example 9/reaction step H, from (3S*,4R*)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (25.0 g, 41.1 mmol) and tetrabutylammonium fluoride trihydrate (19.4 g, 61.6 mmol) in THF (150 mL) as a colorless oil. MS: 495.2 [M+H]+; tR (HPLC, C18 column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/1.5 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.84 min.

reactant | (3S*,4R*)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 41.1 mmol, 25.0 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C(O[SiH2]C(C)(C)C)(C)C | C32H56N2O7Si
reactant | tetrabutylammonium fluoride trihydrate | 61.6 mmol, 19.4 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (3S*,4R*)-3-Hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CO | C26H42N2O7
